* Schematics Netlist *



Q_Q         $N_0002 $N_0001 $N_0003 KT814V 
R_R2         0 $N_0001  6.2k  
R_R1         $N_0001 $N_0004  30000  
R_Rý         0 $N_0003  100  
C_Cý         0 $N_0003  50u  
R_         0 2  1200  
C_Cð2         2 $N_0002  5u  
C_Cð1         $N_0005 $N_0001  5u  
R_Rã         1 $N_0005  200  
V_Eïèò         0 $N_0004 40V
R_Rê         $N_0002 $N_0004  400  
V_VG         1 0 DC 1.3V AC 0V 
