* Schematics Netlist *



Q_Q         $N_0002 $N_0001 $N_0003 KT814V 
V_VG         1 0 DC 0V AC 0V 
R_RG         1 $N_0004  200  
R_R2         0 $N_0001  6.2k  
R_RE         0 $N_0003  100  
R_RK         $N_0002 $N_0005  400  
R_R1         $N_0001 $N_0005  30000  
C_CP1         $N_0004 $N_0001  5u  
C_CE         0 $N_0003  50u  
V_VPit         0 $N_0005 15V
R_RH         0 2  1200  
C_CP2         2 $N_0002  5u  
C_C4         0 2  1n  
