* Schematics Netlist *



R_R1         0 2  1040  
V_V1         1 0  
+SIN 0 25 1250 0 0 0
D_D2         1 2 Dbreak 
C_C1         0 2  2.4u  
