* Schematics Netlist *



R_R1         $N_0002 $N_0001  1040  
D_D1         $N_0001 $N_0003 KS147 
D_D2         0 $N_0003 KS147 
V_V1         $N_0002 0 DC 0 AC 0
+SIN 0 7.05 1k 0 0 0
