* Schematics Netlist *



C_C23         0 2  0.9n  
C_C3         0 $N_0001  15u  
C_C2         $N_0002 2  0.39u  
C_C1         $N_0003 $N_0004  0.39u  
R_R6         1 $N_0003  200  
R_R3         $N_0002 $N_0005  680  
R_R4         0 $N_0001  390  
R_R2         0 $N_0004  4300  
Q_Q         $N_0002 $N_0004 $N_0001 KT361g 
R_R1         $N_0004 $N_0005  11k  
V_V2         0 $N_0005 20V
R_R7         0 2  {R7}  
V_V1         1 0  AC 1
+SIN 0 {Ampl} 5k 0 0 0
