* Schematics Netlist *



Q_Q         $N_0002 $N_0001 $N_0003 KT814V 
R_R3         $N_0002 $N_0004  560  
V_V1         0 $N_0004 24
R_R4         0 $N_0003  190  
R_R2         0 $N_0001  220  
R_R1         $N_0001 $N_0004  1200  
