* Schematics Netlist *



C_C4         0 2  0.7n  
R_R7         0 2  {R7}  
V_V2         0 $N_0001 40
R_R6         1 $N_0002  200  
R_R1         4 $N_0001  3000  
R_R2         0 4  1000  
R_R4         $N_0004 $N_0003  91  
C_C1         $N_0002 4  1.5u  
C_C2         3 2  0.68u  
V_V1         1 0  AC 1
+SIN 0 {Ampl} 5k 0 0 0
C_C3         0 $N_0004  15u  
R_R5         0 $N_0004  390  
R_R3         3 $N_0001  430  
Q_Q1         3 4 $N_0003 KT814V 
