* Schematics Netlist *



V_Eсм         0 $N_0001 36V
R_Rб         $N_0001 Б  1600  
R_Rэ         0 $N_0002  540  
R_Rк         $N_0003 К  560  
V_Eпит         0 $N_0003 36V
Q_Q         К Б $N_0002 KT814V 
