* Schematics Netlist *



R_R1         0 $N_0001  700  
R_R2         2 1  700  
L_L1         $N_0001 1  0.105  
C_C1         2 3  0.495uF  
R_R3         3 1  300  
           
.PRINT         AC 
+ VM([1]) 
+ VP([1]) 
+ VR([1]) 
+ VI([1])  
           
.PRINT         AC 
+ VM([3]) 
+ VP([3]) 
+ VR([3]) 
+ VI([3])  
           
.PRINT         AC 
+ VM([2]) 
+ VP([2]) 
+ VR([2]) 
+ VI([2])  
I_I2         1 2 DC 0A AC 4mA 
R_R5         0 2  400  
R_R4         0 3  400  
           
.PRINT         AC 
+ VM([0]) 
+ VP([0]) 
+ VR([0]) 
+ VI([0])  
